US07935696B2
4-(4-Chlorophenyl)-N-(5-(cyclopropylcarbamoyl)-2-methylphenyl)thiophene-2-carboxamide
The title compound was prepared by coupling 4-bromo-N-(5-(cyclopropylcarbamoyl)-2-methylphenyl)thiophene-2-carboxamide a with commercially available 4-chlorophenylboronic acid using the method described in Step B of Example 136 to afford a white solid (Example 203). HPLC Ret time=3.66 min. LCMS [M+H]+ 411.221.

reactant | 4-bromo-N-(5-(cyclopropylcarbamoyl)-2-methylphenyl)thiophene-2-carboxamide | BrC=1C=C(SC1)C(=O)NC1=C(C=CC(=C1)C(NC1CC1)=O)C | C16H15BrN2O2S
reactant | 4-chlorophenylboronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | 4-(4-Chlorophenyl)-N-(5-(cyclopropylcarbamoyl)-2-methylphenyl)thiophene-2-carboxamide | ClC1=CC=C(C=C1)C=1C=C(SC1)C(=O)NC1=C(C=CC(=C1)C(NC1CC1)=O)C | C22H19ClN2O2S
